US09388177B2
1-bromo-2-(cyclopropyloxy)-4-fluorobenzene
To a stirred solution of 2-bromo-5-fluorophenol (1.0 g) in DMF (15 mL) in a microwave tube was added cesium carbonate (5.0 g), potassium iodide (130 mg) and bromocyclopropane (1.82 g). The mixture was heated in a microwave oven to 180° C. for 1 h, to 200° C. for 1 h and to 220° C. for 1 h. Ethyl acetate was added and the mixture was washed with water. The organic phase was washed with saturated sodium chloride solution, dried (sodium sulfate) and the solvent was removed in vacuum. Silica gel chromatography gave 1.14 g of the title compound.

reactant | 2-bromo-5-fluorophenol | 1.0 g | BrC1=C(C=C(C=C1)F)O | C6H4BrFO
reactant | cesium carbonate | 5.0 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | potassium iodide | 130 mg | [I-].[K+]
reactant | bromocyclopropane | 1.82 g | BrC1CC1 | C3H5Br
solvent | DMF | 15 mL | CN(C)C=O | C3H7NO
solvent | Ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-bromo-2-(cyclopropyloxy)-4-fluorobenzene | 1.14 g | BrC1=C(C=C(C=C1)F)OC1CC1 | C9H8BrFO
